Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right carotid artery stenosis
 
Major Surgical or Invasive Procedure:
___ - Right carotid endarterectomy
 
History of Present Illness:
___ is a ___ year old male with known right carotid 
artery stenosis who presented electively on ___ for a 
right carotid endarterectomy.

 
Past Medical History:
- Arthritis
- Atrial fibrillation
- Benign prostatic hypertrophy
- Dyslipidemia
- History of stroke in ___
- Incomplete right bundle branch block
- Multiple areas of cerebral vessel stenosis
- Patent foramen ovale
- Status post hernia repair
- Status post left knee arthroscopy with partial medial 
meniscectomy 
- Status post transuretheral resection of prostate
 
Social History:
___
Family History:
Unknown.
 
Physical Exam:
On Discharge:
-------------
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  Right    ___      Left   ___

EOM: [x]Full [ ]Restricted

Face Symmetric: [ ]Yes [x]No - Left facial 

Tongue Midline: [ ]Yes [x]No

Pronator Drift [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No 
(___)

Comprehension intact [x]Yes [ ]No

Motor:
DeltoidBicepTricepGrip
Right 5555
Left___

IPQuadHamATEHLGast
___
Left5       5       5       5       5       5

[x]Sensation intact to light touch

Wound: 
[x]Clean, dry, intact - dressing removed 
[x]Suture

 
Pertinent Results:
Please see OMR for all relevant laboratory and imaging results.

 CTA HEAD AND CTA NECK Study Date of ___ 2:14 ___ 
IMPRESSION: 
1. No evidence of hemorrhage or infarction. 
2. No findings of new stenosis, occlusion, or aneurysm formation 
within the intracranial vasculature or great vessels of the 
neck. 
3. Unchanged appearance of multiple chronic arterial stenosis in 
the head and neck including chronic occlusion of the superior 
division of the right MCA at the bifurcation bifurcation , focal 
stenosis of the right M1 segment, focal narrowing of the petrous 
segment of the left ICA, chronic severe stenosis or occlusion of 
the left M1 segment, bilateral stenoses of the P2 segments of 
the posterior cerebral arteries and chronic occlusion of the 
proximal V1 segment 
of the right vertebral artery. 
4. Postsurgical changes related to recent right carotid 
endarterectomy, 
including subcutaneous emphysema within the right neck and chest 
wall. 

 MR HEAD W/O CONTRAST Study Date of ___ 1:46 ___ 
IMPRESSION: 
1. Multiple small bilateral acute infarcts involving the basal 
ganglia, left greater than right frontal cortex, as well as a 
focus in the right frontal centrum semiovale and a focus in the 
left postcentral cortex.  No associated mass effect or evidence 
for blood products. 
2. Multiple small chronic infarcts in the bilateral corona 
radiata and centrum semiovale with progression of volume loss 
compared to ___. 
3. Narrowing of the intracranial left internal carotid artery 
and left middle cerebral artery, better assessed on the 
preceding CTA from ___. 
4. Apparent hypointensity in the central spinal cord extending 
inferiorly from C2-C3 level and beyond the inferior margin of 
the images, unclear whether an artifact, versus edema or syrinx. 


 
Brief Hospital Course:
___ year old male with known carotid artery stenosis.

#Right carotid artery stenosis status post right carotid 
endarterectomy
The patient presented electively and was taken to the OR on 
___ for a right carotid endarterectomy. The operation was 
uncomplicated. The patient was extubated in the OR and recovered 
in the PACU. He was initially neurologically intact 
postoperatively with postoperative SBP goal 100-180. His SBPs 
were in the low 100s postoperatively, IV fluids were increased 
to help drive up SBPs. He was noted to have an episode of right 
upper extremity weakness around 1:50pm, which resolved within 
minutes. At 2pm, he was found to be unresponsive, not opening 
eyes, responding to stimuli, or following commands with 
associated lip smacking. He was taken for stat CTA of the head 
and neck, which was unremarkable. He was given 2mg of Ativan for 
possible seizure activity, and continuous EEG ordered. He was 
started on vasopressors for new SBP goal 130-180 given concern 
for cerebral hypoperfusion. There was significant improvement in 
his neurologic exam after starting vasopressors. He was opening 
eyes, responding to stimuli, and following commands. He was 
transferred to Neuro ICU for continued close neurologic 
monitoring. A heparin drip was started at 500 units/hour and he 
was transitioned to aspirin 325mg once daily on ___. cEEG was 
negative for seizures and discontinued. His voice was hoarse 
likely from laryngeal nerve involvement after the CEA however 
there was no obvious hematoma as his incision remained soft. He 
was weaned off vasopressors and transferred to the neuro 
step-down unit where he remained neurologically stable and was 
cleared to discharge to rehab ___.  His home BP meds were held 
to continue to allow adequate perfusion, but may be resumed if 
SBP maintained > 180. 

#Watershed infarcts likely due to hypoperfusion 
Neurology was also consulted for concern for stroke and 
recommended the patient lay flat due to concerns for 
hypoperfusion. His SBP remained at goal on vasopressors. MRI 
brain showed multiple small bilateral acute infarcts involving 
the basal ganglia, left greater than right frontal cortex, as 
well as a focus in the right frontal centrum semiovale and a 
focus in the left postcentral cortex. Multiple small chronic 
infarcts in the bilateral corona radiata and centrum semiovale 
with progression of volume loss compared to prior imaging. He 
continued on ASA 325mg and atorvastatin 80mg qPM. His activity 
was liberalized and his neuro exam remained stable OOB with 
therapy. 

  
#Cervical spine findings 
On MRI brain there ___ an incidental finding of an apparent 
hypointensity in the central spinal cord extending inferiorly 
from C2-C3 level and beyond the inferior margin of the images, 
unclear whether an artifact, versus edema or syrinx. 
Neuroradiology recommended MRI c-spine. Patient did not have any 
signs of pathology in the c-spine. The patient was advised to 
follow-up MRI c-spine outpatient.

#L vocal cord paralysis
This was a pre-existing condition however we refer patient to 
ENT on discharge and has follow-up scheduled. 
  

#Dispo
Patient was evaluated by physical and occupational therapy who 
recommended rehab. Case management assisted the family in 
deciding on an appropriate rehab facility. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. benazepril 20 mg oral DAILY 
5. Clopidogrel 75 mg PO DAILY 
6. Finasteride 5 mg PO DAILY 
7. Fish Oil (Omega 3) 1000 mg PO BID 
8. Vitamin D 1000 UNIT PO BID 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Docusate Sodium 100 mg PO BID  
3.  Heparin 5000 UNIT SC BID  
4.  Aspirin 325 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  Finasteride 5 mg PO DAILY  
7.  Fish Oil (Omega 3) 1000 mg PO BID  
8.  Vitamin D 1000 UNIT PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right carotid artery stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Carotid Endarterectomy
Discharge Instructions

Call your neurosurgeon’s office for:
• Worsening headache
• Changes in vision (loss of vision, blurring, double vision, 
half vision)
• Slurring of speech or difficulty finding correct words to use.
• Difficulty moving or using your arm or leg or the feeling to 
feel your arm or leg. 
• If you have a hard time swallowing
• Swelling, drainage, or redness of your incision
• Fever greater than 101.5 F degrees
• Stiff or painful neck
• Nausea, vomiting, lethargy (unable to stay awake)
• Any problems with side effects from medications, you can also 
call your pharmacy.
• A follow-up appointment for ___ weeks after discharge

Activity:
• No sexual activity for one month.
• No driving until post-op visit and you are no longer taking 
pain medication.
• No heavy lifting or bending for one month, then slowly 
increase your activity at your own pace.
• Do not operate any motorized vehicle nor drink alcohol while 
on pain medications.

Incision Care:
• You have absorbable sutures that will not need suture removal
• Typically your dressing is removed day 1 post operatively 
• Leave the white strips in place; if your strips have not 
fallen off after 14 days, you may carefully take them off.
• When you are allowed to shampoo your hair, (typically ___ days 
post operatively), let the shampoo run off the incision line and 
do not rub, scrub, scratch, or pick at any scabs on the incision 
line.
• Do not use creams or ointment on your incision; keep it clean 
and open to air unless otherwise instructed

Common Problems:
• Pain medicine and inactivity can cause constipation (straining 
when passing stool).
Prevent constipation by:
o Drinking plenty of fluids
o Eating vegetables, prunes, high fiber breads & cereals
o Getting enough exercise.
o Take stool softeners like Docusate sodium (Colace) per package 
directions, usually three times a day
o Take bowel stimulants like Senna or Bisacodyl (Dulcolax) per 
package directions, usually twice a day:
• If you have loose stools: slowly reduce the bowel stimulants.
• For constipation: take Milk of Magnesia, Magnesium Citrate or 
Miralax  per package directions.
• When you start to move around and need less pain medications, 
slowly stop taking the stool stimulants, and then decrease the 
stool softeners.

Fatigue/Pain/ Swelling:
• Fatigue: will slowly resolve, over days to weeks
• Pain over incision or loss of sensation: resolves in ___ 
months
• Facial/ carotid swelling: slowly resolves over the next few 
weeks  

 
Followup Instructions:
___